Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Dyspnea, cough
 
Major Surgical or Invasive Procedure:
Intubation ___
Extubation ___

 
History of Present Illness:
Ms ___ is a ___ woman with a history of CHF (LVEF 70% in 
___, on Bumex), Afib (on Abixiban), and HTN who presents with 
worsening shortness of breath over the past week. Dyspnea has 
been on exertion and at rest. Associated with PND and orthopnea. 
Also associated with 1 month of increased bilateral lower 
extremity swelling, R>L. Not associated with chest pain or 
palpitations. During this time, she has had a non-productive 
cough, as well as intermittent dysuria and increased urinary 
frequency. She notes an odor to urine, but denies fevers, 
chills, chest pain, abdominal pain, or pain in legs. No recent 
sick contacts, no recent travel. No nasal congestion, cough, or 
other URI symptoms preceding dyspnea. 
  
In the ED, initial vitals were: T 98.3 HR 110 BP 142/74 RR 24 
SaO2 94% on nc  
Exam: Rales at both lung bases. RLE edema > LLE (stable from 
previous PCP ___ 
Labs:  proBNP 7388, K 3.0, Cr 1.7, Mg 1.3, WBC 12.3, Hgb 11.2, 
Plt 286, INR 1.4, lacate 1.7
Imaging:  EKG: HR 130, AFib w RVR, Left axis, Normal QRS and 
QTc, no STE. CXR: Mild pulmonary edema, worse in the interval. 
Bedside U/S: mild pericardial effusion
Consults:  Cardiology, Respiratory therapy
Patient was given Nitro gtt for control of shortness of breath. 
She developed AF + RVR, so was started on Esmolol gtt. She 
became hypotensive to ___, so Esmolol gtt was stopped, and her 
HR improved without further intervention. She also received 
Aspirin, Lasix 80mg IVx1 & 40mg IVx2, K 40mg POx1, Mg 2gm IV.
Decision was made to admit to CCU for CHF exacerbation with 
pulmonary edema requiring BiPAP
Vitals on transfer were:  HR 100 BP 113/56 RR 25 SaO2 98% ra

On the floor, patient reports feeling well. She continues to be 
a little short of breath, but the facemask is bothering her. She 
denies current chest pain. Has been coughing and short of breath 
for the past week. Cough is nonproductive. No current abdominal 
pain or dysuria.  
 
REVIEW OF SYSTEMS:  
(+) per HPI  
Cardiac review of systems is notable for absence of chest pain, 
palpitations, syncope or presyncope.  
Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies recent fevers, chills or rigors. Denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.  

 
Past Medical History:
Hypertension
hyperlipidemia
peripheral vascular disease
venous insufficiency
peripheral neuropathy
history of colon CA (no rad/chem)
rosacea
intertrigo
L5-S1 radiculopathy

PSH: 
partial colectomy 93'
R ___ angio; 
PTA R SFA c stent x 2 at mid/distal SFA ___ (Zilver 
stent)
 
Social History:
___
Family History:
CAD in brother
 
Physical ___:
ADMISSION PHYSICAL EXAMINATION:  
VS:  T 97.1 HR 113 BP 121/76 RR 25 SaO2 100% on facemask
Gen:  elderly woman, labored breathing, nontoxic, NAD
HEENT:  no scleral icterus, erythema and ecchymosis over nose 
and mouth, mmm
NECK:  +JVD (JVP 12cm)
CV:  tachycardic, irregular rhythm, no m/r/g
LUNGS:  on facemask, coughing, junky breath sounds with 
bilateral wheezing and rhonchi; wheezing 
ABD:  soft, NT/ND, +bs, no suprapubic tenderness
EXT:  warm, 2+ edema in bilateral ___ to knees, venous stasis 
changes R>L
SKIN: erythema and ecchymosis over nose and mouth
NEURO:  alert, moving all 4 extremities, no gross deficits

DISCHARGE PHYSICAL EXAM:
Discharge Weight: 72.9 kg
VS: 97-98.6 90-110s/50-60s ___ RA
Weight: 74.4 <--75.4 <--75.1 kg <-- 75.8 kg
Tele: short asymptomatic sinus pauses while sleeping
Gen:  elderly woman, NAD
HEENT:  no scleral icterus, erythema and ecchymosis over nose 
and mouth, mmm
NECK:  no JVD
CV:  regular rate, irregularly irregular rhythm, no m/r/g
LUNGS:  wheezing and rhonchi have resolved 
ABD:  soft, NT/ND, +bs, no ttp
EXT:  warm, no edema, venous stasis changes R>L
SKIN: erythema and ecchymosis over nose and mouth mostly 
resolved
NEURO:  alert, moving all 4 extremities, no gross deficits, 
oriented to person, time, and place
 
Pertinent Results:
ADMISSION LABS:
======================
___ 01:40PM BLOOD WBC-12.3*# RBC-4.03 Hgb-11.2 Hct-35.9 
MCV-89 MCH-27.8 MCHC-31.2* RDW-16.2* RDWSD-52.7* Plt ___
___ 01:40PM BLOOD ___ PTT-33.7 ___
___ 01:40PM BLOOD Glucose-132* UreaN-35* Creat-1.7* Na-140 
K-3.0* Cl-93* HCO3-26 AnGap-24*
___ 01:40PM BLOOD ALT-16 AST-22 AlkPhos-131* TotBili-1.0
___ 01:40PM BLOOD proBNP-___*
___ 01:40PM BLOOD cTropnT-<0.01
___ 01:40PM BLOOD Albumin-4.1 Calcium-7.2* Phos-4.0 Mg-1.3*
___ 03:29AM BLOOD Type-ART Temp-36.3 Rates-/29 pO2-152* 
pCO2-120* pH-7.07* calTCO2-37* Base XS-0 Intubat-NOT INTUBA
___ 02:14PM BLOOD Lactate-1.7
___ 03:29AM BLOOD freeCa-0.93*

OTHER PERTINENT LABS:
======================
___ 08:53PM BLOOD cTropnT-<0.01
___ 01:40PM BLOOD cTropnT-<0.01
___ 06:55AM BLOOD TSH-7.9*
___ 06:55AM BLOOD Free T4-1.2

MICRO:
======================
___ Blood culture: negative
___ MRSA screen: negative
___ Urine culture: KLEBSIELLA PNEUMONIAE.    >100,000 
ORGANISMS/ML..
___ Sputum culture: MORAXELLA CATARRHALIS.    MODERATE GROWTH. 


IMAGING/STUDIES:
======================
CXR ___: Comparison to ___.  Decrease in extent 
of a pre-existing left pleural effusion.  Unchanged appearance 
of the right lung.  Moderate cardiomegaly.  Mild retrocardiac 
atelectasis.  Unchanged fibrotic right upper lobe changes.  
Right PICC line is constant. 

ECHO ___: 
The left atrium is moderately dilated. The estimated right 
atrial pressure is at least 15 mmHg. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Doppler parameters are 
indeterminate for left ventricular diastolic function. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are moderately 
thickened. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
There is an anterior space which most likely represents a 
prominent fat pad. 

 Compared with the prior study (images reviewed) of ___, 
pulmonary artery systolic pressure is higher and mild mitral 
regurgitation is now appreciated. Other findings are similar.  

DISCHARGE LABS:
======================
___ 07:14AM BLOOD WBC-6.4 RBC-3.48* Hgb-9.6* Hct-31.4* 
MCV-90 MCH-27.6 MCHC-30.6* RDW-16.8* RDWSD-53.8* Plt ___
___ 07:14AM BLOOD Glucose-107* UreaN-27* Creat-1.7* Na-144 
K-3.7 Cl-104 HCO3-34* AnGap-10
___ 07:14AM BLOOD Calcium-7.4* Phos-3.3 Mg-2.___RIEF SUMMARY STATEMENT:
=========================
___ woman with a history of CHF (LVEF 70% in ___, on Bumex), 
Afib (on Apixiban), and HTN who presented with worsening 
shortness of breath over the past week and cough found to have R 
sided pneumonia and acute on chronic diastolic heart failure 
exacerbation requiring BiPAP, complicated by hypercarbic 
respiratory failure requiring intubation. Sputum culture grew 
Moraxella and was treated with ceftriaxone (___) and 
azithromycin (___). Patient was given steroids, d/c'ed 
after 3 days due to worsening delirium. Delirium improved after 
steroids were d/c'ed and with Seroquel.  Pt. with afib with RVR 
during hospitalization.  Started on metoprolol and amiodarone 
with improvement in rates.

ACTIVE ISSUES: 
=========================
#) ACUTE DECOMPENSATED DIASTOLIC HEART FAILURE: LVEF 70% in 
___. On admission, her exam was consistent with fluid overload, 
with elevated JVP and 2+ pitting edema in both legs. LVEF 55-60% 
on this admission. She was diuresed with 120 mg IV Lasix boluses 
and Lasix gtt. Patient was transitioned to her home Bumex prior 
to discharge. Of note, her Bumex had recently been increased as 
an outpatient but she was not aware of this increase and had 
continued at her previous dose, possibly leading to the present 
admission.

#) HYPOXIA/CAP: Patient presented with hypoxia, was likely due 
to CHF exacerbation and community acquired pneumonia. Although 
patient stated she had no history of asthma or COPD, she had 
episodes of wheezing and was given standing ipratropium nebs 
which improved wheezing and hypoxia. Patient was found to have R 
lobe pneumonia on CXR and sputum culture grew Moraxella. She was 
treated with 7 day course of Ceftriaxone. Due to worsening 
hypercarbia and wheezing, she was treated with prednisone for 
CAP, however prednisone was stopped after 3 days due to 
worsening delirium. Patient had aggressive pulmonary toilet for 
copious secretions and productive cough. Hypoxia had resolved 
prior to discharge.

#) ACUTE HYPERCARBIC RESPIRATORY FAILURE: Patient had episode of 
agitation and altered mental status on first night of admission, 
was found to have pCO2 120 and pH 7.07. She was intubated for 
hypercarbic respiratory failure and treated with diuretics and 
antibiotics for pneumonia. She was extubated the next day 
(___). She had subsequent episodes of respiratory distress 
that resolved with BiPAP.

#) AFIB with RVR: At home patient took Apixiban 2.5mg BID and 
Diltiazem 180mg BID.  On this admission, pt. with RVR.  HRs were 
140s-150s during admission which was controlled with a diltiazem 
gtt.  She was started back on her PO diltiazem and started on 
metoprolol 100 XL.  She still had difficult to control rates.  
As such, patient was started on amiodarone with improvement.  
She eventually was transitioned back to PO medications and was 
discharged on Metoprolol succinate 100 XL daily, Diltiazem 120 
mg daily, and amiodarone. She was discharged on her home 
apixaban for anticoagulation.

#) ALTERED MENTAL STATUS: Patient had worsening delirium after 
extubation most likely due to steroids, scopolamine, and ICU 
hospitalization. The scopolamine patch and steroids were d/c'ed 
and patient improved slowly. She was started on 50 mg Seroquel 
at 4 pm and 10 pm daily for continued agitation and sundowning. 
Mental status improved prior to discharge and she was AAOX3.  
She was discontinued off of Seroquel with stable mental status 
for over 72 hours.

CHRONIC ISSUES:  
=========================
#) GERD: 
- Continued home omeprazole 20 mg daily

#) CHRONIC PAIN
- Continued home Gabapentin 300mg qhs 

TRANSITIONAL ISSUES:
======================
# Discharge Weight: 72.9kg (standing, day of discharge)
# s/p CAP Course: Completed Ceftriaxone 7 days, Prednisone 3 
days
# Afib Outpatient Management:  Patient needs to follow up with 
Dr. ___ Dr. ___ from cardiology.
# Afib with RVR: Pt. with difficult to control ventricular rates 
in the setting of her illness.  She was started on metoprolol 
and amiodarone. Continued on dilt and apixaban.
# Amio:  Would consider discontinuing amiodarone now that 
patient is stable with rate-controlled Afib.  Otherwise, patient 
needs safety monitoring if she remains on Amiodarone long term. 
Please check PFTs and TFTs as an outpatient. On ___, 
TSH:7.9 Free-T4:1.2.
# Amiodarone Dosing: Given 400 BID for 1 week (to ___, 200 
BID for 3 weeks (to ___, then 200 daily (Starting 
___ 
# Consider cardioversion as outpatient
# Patient noticed to have painless lump underneath R mandible. 
Please evaluate as outpatient.
# Code: DNR/DNI
# HCP:  ___ (pt's niece): ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bumetanide 2 mg PO QAM 
2. bumetanide 1 mg oral QPM 
3. Diltiazem Extended-Release 180 mg PO BID 
4. Apixaban 2.5 mg PO BID 
5. Gabapentin 300 mg PO QHS 
6. Omeprazole 20 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. miconazole nitrate unknown strength topical apply underneath 
breasts and groin as needed for rash 

 
Discharge Medications:
1. Apixaban 2.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Bumetanide 2 mg PO QAM 
4. Bumetanide 1 mg ORAL QPM 
5. Diltiazem Extended-Release 120 mg PO DAILY 
6. Gabapentin 300 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Amiodarone 400 mg PO BID 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. miconazole nitrate unknown  TOPICAL APPLY UNDERNEATH BREASTS 
AND GROIN AS NEEDED FOR RASH 
12. Docusate Sodium 100 mg PO BID 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===================
Acute on chronic diastolic heart failure
Community Acquired Pneumonia
Hypercarbic respiratory failure
Delirium

SECONDARY DIAGNOSES
=====================
Hypertension
Hyperlipidemia
Intertrigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
because you had shortness of breath and cough. You were having 
trouble breathing so you were placed on BiPAP machine and sent 
to the cardiac ICU. You were found to have a pneumonia and heart 
failure exacerbation causing fluid to accumulate in your lungs. 
You required a breathing tube and breathing machine for a short 
time to help you breathe during the beginning of your 
hospitalization. You were given medications to treat your 
pneumonia and medications to help remove fluid from your lungs. 
You were given steroids to help decrease inflammation in your 
lungs, but this caused you to be agitated and confused in the 
ICU. Your confusion improved off of the steroids. Your exercise 
tolerance decreased from your baseline, so you are being 
discharged to rehab before you go home.

Sincerely,

Your ___ Team
 
Followup Instructions:
___